US06451821B1
0.52 cm3 of triethylamine is added to a stirred mixture of 1 g of Boc-D-4-pyridylalanine in 10 cm3 of tetrahydrofuran, under an inert atmosphere, and the mixture is then cooled to a temperature in the region of −18° C. After addition of 0.47 cm3 of isobutyl chloroformate, stirring is continued for 30 minutes at a temperature of between −18° C. and −10° C. The mixture is rapidly filtered, followed by addition to the filtrate of 0.28 g of sodium borohydride predissolved in 2 cm3 of water. The mixture is stirred for 1 hour at a temperature in the region of 0° C. and then for 16 hours at a temperature in the region of 20° C. The mixture is made alkaline by addition of aqueous potassium carbonate solution and then stirred in the presence of ethyl acetate. The organic phase is separated out after settling has taken place and then washed with water, dried over magnesium sulphate, filtered and concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained is purified by chromatography under an argon pressure of 50 kPa on a column of silica gel (particle size 40-63μ: diameter 2.2 cm; height of silica 30 cm), eluting first with ethyl acetate alone and collecting 30-cm3 fractions. Fractions 1 to 18 are discarded and the column is then eluted with a mixture of ethyl acetate/methanol (90/10 by volume). Fractions 23 to 26 are collected and then combined. After concentration under reduced pressure (5 kPa) at a temperature in the region of 40° C., 0.10 g of tert-butyl (1R)-1-(4-pyridylmethyl)-2-hydroxy-ethylcarbamate is obtained in the form of an oil. Infrared spectrum (CH2Cl2): 3618; 3434; 2981; 1708; 1501; 1367; 1168 and 1057 cm−1.

reactant | triethylamine | 0.52 cm3 | C(C)N(CC)CC | C6H15N
reactant | Boc-D-4-pyridylalanine | 1 g | CC(C)(C)OC(=O)N[C@H](CC1=CC=NC=C1)C(=O)O | C13H18N2O4
reactant | isobutyl chloroformate | 0.47 cm3 | ClC(=O)OCC(C)C | C5H9ClO2
solvent | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
product | tert-butyl (1R)-1-(4-pyridylmethyl)-2-hydroxy-ethylcarbamate | 0.10 g | N1=CC=C(C=C1)C[C@H](CO)NC(OC(C)(C)C)=O | C13H20N2O3
